US08026234B2
Ethyl 3-(benzyl(cyclopentyl)amino)-2-fluoro-2-methylpropanoate:
To ethyl 3-(benzyl(cyclopentyl)amino)-2-hydroxy-2-methylpropanoate (4.2 g, 14 mmol) in 50 ml of dichlormethane at −78° C., was added DAST (2.7 ml, 21 mmol) dropwise. The reaction mixture was gradually warmed up to room temperature and stirred for 2 h. It was then diluted to dichloromethane, washed by NaHCO3, brine and water. Organic extract dried and concentrated to a residue, which was purified on silica gel column chromatographically (Hex/EtOAc=40:1 to 20:1) to give 3.5 g product (83%) as light yellow liquid. [M+H] calc'd for C18H26FNO2, 308. found 308.

reactant | ethyl 3-(benzyl(cyclopentyl)amino)-2-hydroxy-2-methylpropanoate | 14 mmol, 4.2 g | C(C1=CC=CC=C1)N(CC(C(=O)OCC)(C)O)C1CCCC1 | C18H27NO3
reactant | DAST | 21 mmol, 2.7 ml | CCN(CC)S(F)(F)F | C4H10F3NS
solvent | dichlormethane | 50 ml | ClCCl | CH2Cl2
product | Ethyl 3-(benzyl(cyclopentyl)amino)-2-fluoro-2-methylpropanoate | 3.5 g, 83% | C(C1=CC=CC=C1)N(CC(C(=O)OCC)(C)F)C1CCCC1 | C18H26FNO2
